US06818767B2
A mixture of 2.05 g (10.4 mmol) of 2-methyl-quinoline-4,7-diol, 1.72 g (12.5 mmol) of potassium carbonate and 2.1 g (12.5 mmol) of 4-(bromomethyl)-benzonitrile in 100 ml of DMF were stirred at RT under an nitrogen atmosphere for 4 h until completion of the reaction according to HPLC analysis. The reaction mixture was cooled to RT and poured into EtOAc/water (300 ml/400 ml). The product that precipitated was filtered off by suction, washed with water, AcOEt and ether and dried in a high vacuum to give 2.23 g (73%) of 4-(4-hydroxy-2-methyl-quinolin-7-yloxymethyl)-benzonitrile as a white solid. ISP mass spectrum, m/e: 291.4 (M+1 calculated for C18H14N2O2: 291).

reactant | 2-methyl-quinoline-4,7-diol | 10.4 mmol, 2.05 g | CC1=NC2=CC(=CC=C2C(=C1)O)O | C10H9NO2
reactant | potassium carbonate | 12.5 mmol, 1.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)-benzonitrile | 12.5 mmol, 2.1 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | EtOAc water | 300 ml | CCOC(=O)C.O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(4-hydroxy-2-methyl-quinolin-7-yloxymethyl)-benzonitrile | 2.23 g, 73% | OC1=CC(=NC2=CC(=CC=C12)OCC1=CC=C(C#N)C=C1)C | C18H14N2O2
